US04144047
Preparation of 5-(α,α,α,α',α',α'-Hexafluoro-3,5- Xylyl)-1,3,4-Oxathiazol-2-One.
3,5-Bis(trifluoromethyl)benzamide (60.5 g, 0.235 mol) and five equivalents of chlorocarbonylsulfenyl chloride (154 g, 1.175 mol) were heated in 600 ml of toluene at reflux, with stirring, for 12 hours. The crude product, a dark brown oil, weighed 77.5 g. After decolorization in hexane, the material was taken up in methanol and recrystallized three times to give 22.0 g (0.0699 mol, 29.75%) of pale gold solid, m.p. 61°-62.5°.

reactant | 3,5-Bis(trifluoromethyl)benzamide | 0.235 mol, 60.5 g | FC(C=1C=C(C(=O)N)C=C(C1)C(F)(F)F)(F)F | C9H5F6NO
reactant | chlorocarbonylsulfenyl chloride | 1.175 mol, 154 g, five equivalents | ClC(=O)SCl | CCl2OS
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | methanol | CO | CH4O
product | 5-(α,α,α,α',α',α'-Hexafluoro-3,5- Xylyl)-1,3,4-Oxathiazol-2-One | 0.0699 mol, 22.0 g, 29.75% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NSC(O1)=O)(F)F | C10H3F6NO2S
